US07932282B2
A solution of 3-methyl-1-(1-methyl-1H-imidazol-5-yl)-2-oxo-4-imidazolidinecarboxylic acid (155 mg, 0.458 mmol) and N-ethylmorpholine (0.348 ml, 2.75 mmol) in dichloromethane (5 ml) was treated with 1-hydroxybenzotriazole hydrate (84 mg, 0.550 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (88 mg, 0.458 mmol) and stirred at room temperature for 10 minutes. 1-(2,4-Dichlorophenyl)methanamine (81 mg, 0.458 mmol) was then added and the reaction mixture was stirred at room temperature for 6 hours. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine, separated through a hydrophobic frit and the organic layer reduced under vacuum. The residue was purified by mass-directed automated HPLC to give N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-(1-methyl-1H-imidazol-5-yl)-2-oxo-4-imidazolidinecarboxamide (63 mg, 34.2% yield). LC/MS [M+H]+=382, retention time=1.71 minutes.

reactant | 3-methyl-1-(1-methyl-1H-imidazol-5-yl)-2-oxo-4-imidazolidinecarboxylic acid | 0.458 mmol, 155 mg | CN1C(N(CC1C(=O)O)C1=CN=CN1C)=O | C9H12N4O3
reactant | N-ethylmorpholine | 2.75 mmol, 0.348 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.550 mmol, 84 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.458 mmol, 88 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(2,4-Dichlorophenyl)methanamine | 0.458 mmol, 81 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-(1-methyl-1H-imidazol-5-yl)-2-oxo-4-imidazolidinecarboxamide | 63 mg, 34.2% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C1=CN=CN1C)=O)C | C16H17Cl2N5O2
